US08440681B2
The mixture isoxazol-3-amine (36 μL, 0.50 mmol), 2,4,5-trichloropyrimidine (57 μL, 0.5 mmol), and sodium carbonate (53 mg, 0.5 mmol) in 3 mL of EtOH is heated at 60° C. for 48 hrs. The precipitate is filtered, washed by cold EtOH, and dried in vacuo to afford N-(2,5-Dichloropyrimidin-4-yl)isoxazol-3-amine; ESMS m/z 231.0 (M+H+).

reactant | isoxazol-3-amine | 0.50 mmol, 36 μL | O1N=C(C=C1)N | C3H4N2O
reactant | 2,4,5-trichloropyrimidine | 0.5 mmol, 57 μL | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | sodium carbonate | 0.5 mmol, 53 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | EtOH | 3 mL | CCO | C2H6O
product | N-(2,5-Dichloropyrimidin-4-yl)isoxazol-3-amine | ClC1=NC=C(C(=N1)NC1=NOC=C1)Cl | C7H4Cl2N4O
